US09108939B2
A: Diethyl 3-fluoro-4-nitrobenzylphosphonate
4-(Bromomethyl)-2-fluoro-1-nitrobenzene (34.72 g, 148 mmol) and triethyl phosphite (25.8 mL) were heated at 140° C. for 4 hours. Water was added and the mixture was extracted with diethyl ether. The organics were dried with magnesium sulphate, filtered and evaporated under reduced pressure to afford the title compound (40.94 g). 1H NMR (CDCl3, 400 MHz): δ 8.03 (t, 1H), 7.24 (s, 1H) 7.21 (s, 1H) 4.08 (m, 4H), 3.20 (d, 2H), 1.27 (m, 6H)

reactant | 4-(Bromomethyl)-2-fluoro-1-nitrobenzene | 148 mmol, 34.72 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | triethyl phosphite | 25.8 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | Water | O | H2O
product | Diethyl 3-fluoro-4-nitrobenzylphosphonate | 40.94 g | FC=1C=C(CP(OCC)(OCC)=O)C=CC1[N+](=O)[O-] | C11H15FNO5P
